US03932466
2-acetoxy-5-chlorobenzoyl chloride.
-- To a suspension of 21.4 g (0.1 mole) of 2-acetoxy-5-chlorobenzoic acid in 100 ml of refluxing benzene is added in portions over 1 hour 20.8 g (0.1 mole) of phosphorous pentachloride. The clear solution is refluxed for 1 hour, then concentrated to dryness. The residue is distilled, bp 112°C at 0.1 mm to give a clear oil which solidified on standing, mp 35°-8°C.

reactant | 2-acetoxy-5-chlorobenzoic acid | 0.1 mole, 21.4 g | C(C)(=O)OC1=C(C(=O)O)C=C(C=C1)Cl | C9H7ClO4
reactant | phosphorous pentachloride | 0.1 mole, 20.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-acetoxy-5-chlorobenzoyl chloride | C(C)(=O)OC1=C(C(=O)Cl)C=C(C=C1)Cl | C9H6Cl2O3
